US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID CYCLOBUTYLMETHYLAMIDE
Following the procedure of Example 9, making variations only as required to use 2-trifluoromethylbenzoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid cyclobutylmethylamide, the title compound was obtained as a white powder (45.0% yield). 1H NMR (CDCl3) δ 8.04, 7.83, 7.72, 7.64-7.51, 7.32, 7.00, 4.10-4.01, 3.90-3.66, 3.49-3.27, 2.63-2.47, 2.11-1.67. 13C NMR (CDCl3) δ 167.7, 162.9, 159.8, 145.4, 134.2, 132.4, 129.6, 127.4, 126.9, 126.8, 125.4, 121.8, 112.8, 46.4, 44.6, 41.2, 35.1, 25.7, 18.3. MS (ES+) m/z 448 (M+1).

reactant | 2-trifluoromethylbenzoic acid | FC(C1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid cyclobutylmethylamide | C1(CCC1)CNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID CYCLOBUTYLMETHYLAMIDE | C1(CCC1)CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H24F3N5O2
